US08183264B2
3-(5-Methyl-thiophen-2-ylmethyl)-benzaldehyde
To a solution of acetonitrile (20 mL) and sodium iodide (2.9 g) was added trimethylsilyl chloride (2.1 g) at room temperature under stirring. The reaction solution thus obtained was cooled to −20° C., and (3-[1,3]dioxolan-2-yl-phenyl)-(5-methyl-thiophen-2-yl)-methanol (1.1 g) described in Manufacturing Example 52-1 and acetonitrile (5 mL) were added thereto under stirring. The reaction solution was returned to room temperature and stirred for 10 minutes. Water was added to the reaction solution, which was then extracted with ethyl acetate. The solvent was evaporated from the organic layer under a reduced pressure, and the residue was purified by silica gel chromatography (heptane:ethyl acetate=2:1) to obtain the titled compound (360 mg).

reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
reactant | sodium iodide | 2.9 g | [I-].[Na+]
reactant | trimethylsilyl chloride | 2.1 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | (3-[1,3]dioxolan-2-yl-phenyl)-(5-methyl-thiophen-2-yl)-methanol | 1.1 g | O1C(OCC1)C=1C=C(C=CC1)C(O)C=1SC(=CC1)C | C15H16O3S
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 3-(5-Methyl-thiophen-2-ylmethyl)-benzaldehyde | 360 mg | CC1=CC=C(S1)CC=1C=C(C=O)C=CC1 | C13H12OS
